US05155113
Preparation of 2-benzoyloxy-5-bromo-4-hydroxypyridine
There were mixed 0.15 g of potassium fluoride, 0.35 g of 18-crown-6 and 50 ml of acetonitrile. The mixture was refluxed for 30 minutes and 0.50 g of 5-bromo-2,4-dibenzoyloxypyridine was added thereto. The mixture was refluxed overnight, left to stand for cooling and concentrated. The concentrate was extracted with ethyl acetate and washed with water. The ethyl acetate layer was concentrated and the concentrate was treated with ether, giving 0.23 g of the title compound in a yield of 62%.

reactant | potassium fluoride | 0.15 g | [F-].[K+]
reactant | 18-crown-6 | 0.35 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 5-bromo-2,4-dibenzoyloxypyridine | 0.50 g | BrC=1C(=CC(=NC1)OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O | C19H12BrNO4
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-benzoyloxy-5-bromo-4-hydroxypyridine | 0.23 g, yield of 62% | C(C1=CC=CC=C1)(=O)OC1=NC=C(C(=C1)O)Br | C12H8BrNO3
